US08110585B2
1-[2-(2-methyl[1,2,4]triazolo[1,5-a]pyridin-8-yl)cyclopropyl]methanamine
To a suspension of lithium aluminum hydride (150 mg, 3.24 mmol) in tetrahydrofuran (8 mL) was added a solution of 2-(2-methyl[1,2,4]triazolo[1,5-a]pyridin-8-yl)cyclopropanecarbaldehyde oxime (175 mg, 0.809 mmol) obtained in Reference Example 24 in tetrahydrofuran (8 mL) at room temperature, and the mixture was stirred at room temperature for 30 min. Sodium sulfate decahydrate (1.8 g) was added under ice-cooling, and the mixture was filtered through celite. The filtrate was concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (8 mL), the solution was added to a suspension of lithium aluminum hydride (150 mg, 3.24 mmol) in tetrahydrofuran (8 mL) at 0° C., and the mixture was stirred at room temperature for 3 hr. Sodium sulfate decahydrate (1.8 g) was added under ice-cooling, and the mixture was filtered through celite to give the title compound (98.9 mg, yield 60%).

reactant | lithium aluminum hydride | 3.24 mmol, 150 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(2-methyl[1,2,4]triazolo[1,5-a]pyridin-8-yl)cyclopropanecarbaldehyde oxime | 0.809 mmol, 175 mg | CC1=NN2C(C(=CC=C2)C2C(C2)C=NO)=N1 | C11H12N4O
reactant | Sodium sulfate decahydrate | 1.8 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | lithium aluminum hydride | 3.24 mmol, 150 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Sodium sulfate decahydrate | 1.8 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 1-[2-(2-methyl[1,2,4]triazolo[1,5-a]pyridin-8-yl)cyclopropyl]methanamine | 98.9 mg, yield 60% | CC1=NN2C(C(=CC=C2)C2C(C2)CN)=N1 | C11H14N4
